US09359457B2
Synthesis of 2-Ethylsulfanylthiocarbonylsulfanyl-2-Methyl Propionic Acid (EMP).
This procedure was adapted from the work of You and Oupický. First, ethanethiol (7.21 mL, 0.1 mol), acetone (73 mL), and tricaprylylmethylammonium chloride (1.0 g, 2.5 mmol) were combined and the mixture was cooled on ice under nitrogen. Next, 9 mL of 50% (w/v) of sodium hydroxide was added dropwise. After an additional 20 minutes, carbon disulfide (6.03 mL, 0.1 mol) and acetone (12.6 mL) were combined and added dropwise. Chloroform (12 mL, 0.15 mol) was added, followed by the addition of 80 mL of 50% (w/v) sodium hydroxide over 10 minutes. The yellow-orange mixture was stirred overnight. Water (200 mL) was added, followed by concentrated hydrochloric acid (80 mL) to drop the pH below 1. The mixture was extracted three times into diethyl ether and concentrated to a dark red oil. Crude product was purified via silica gel chromatography (1:1 hexanes:ether) and then distilled to yield 11.0 g of a bright orange, viscous liquid (49% yield). 1H NMR (CDCl3, δ): 1.33 (t, 3H, —CH2CH3), 1.72 (s, 6H, —C(CH3)2COOH), 3.30 (q, 2H, —CH2CH3).

reactant | ethanethiol | 0.1 mol, 7.21 mL | C(C)S | C2H6S
reactant | tricaprylylmethylammonium chloride | 2.5 mmol, 1.0 g | [Cl-].C(CCCCCCC)(=O)C(C(CCCCCCC)=O)(C(CCCCCCC)=O)[NH3+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | carbon disulfide | 0.1 mol, 6.03 mL | C(=S)=S | CS2
reactant | Chloroform | 0.15 mol, 12 mL | C(Cl)(Cl)Cl | CHCl3
reactant | hydrochloric acid | 80 mL | Cl | ClH
solvent | Water | 200 mL | O | H2O
solvent | acetone | 12.6 mL | CC(=O)C | C3H6O
solvent | acetone | 73 mL | CC(=O)C | C3H6O
product | 2-Ethylsulfanylthiocarbonylsulfanyl-2-Methyl Propionic Acid | 49% yield | C(C)SC(=S)SC(C(=O)O)(C)C | C7H12O2S3
